US07572805B2
Part A. Ethyl 2-hydroxy-4-methoxy-6-methylbenzoate
To a solution of ethyl 2,4-dimethoxy-6-methylbenzoate (5.73 g, 25.6 mmol) in 200 mL of methylene chloride at −78° C. was added boron trichloride (28.1 mL of a 1.0 M solution in methylene chloride, 28.1 mmol) via an addition funnel over 15 min. The solution was allowed to stir at −78° C. for 2 h. The cooling bath was removed, the reaction was allowed to warm for 15 min. and then was carefully quenched with 1N HCl. Most of the methylene chloride was removed by rotary evaporator and the reaction was diluted with ethyl acetate. The organics were washed with 1N HCl and brine, dried (MgSO4) and concentrated. The residue was purified by flash chromatography (elution with 8:1 hexane/ethyl acetate) to afford 3.8 g (70%) of the title compound as a tan solid. 1H NMR (CDCl3): δ 11.85 (s, 1H), 6.31 (d, 1H, J=2.2 Hz), 6.25 (d, 1H, J=2.6 Hz), 4.37 (q, 2H, J=7.2 Hz), 3.77 (s, 3H), 2.49 (s, 3H), 1.39 (t, 3H, J=7.4 Hz).

reactant | ethyl 2,4-dimethoxy-6-methylbenzoate | 25.6 mmol, 5.73 g | COC1=C(C(=O)OCC)C(=CC(=C1)OC)C | C12H16O4
reactant | boron trichloride | B(Cl)(Cl)Cl | BCl3
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 2-hydroxy-4-methoxy-6-methylbenzoate | 3.8 g, 70% | OC1=C(C(=O)OCC)C(=CC(=C1)OC)C | C11H14O4
